### PR TITLE
Add Erdős Problem 72 (unavoidable cycle lengths of density zero), link the formal proof

### LINKED ISSUE #6285: Erdős Problem 72
### What is the Erdős problem?

https://www.erdosproblems.com/72

Is there a set $A\subset \mathbb{N}$ of density $0$ and a constant $c>0$ such that every graph on sufficiently many vertices with average degree $\geq c$ contains a cycle whose length is in $A$?

Status: proved (Verstraëte; Liu–Montgomery showed the powers of $2$ work). Prize: \$100. A formal proof exists in plby/lean-proofs (`Erdos72.erdos_72`, Codex and GPT-5.6 Sol), via its formalisation of Liu–Montgomery. Related to #71 and #63.

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6285.

### What changed
Adds `FormalConjectures/ErdosProblems/72.lean` with:
- `erdos_72` (`research solved`, `answer(True)`, $100): there is a set `A ⊆ ℕ` of density `0` (`Set.HasDensity`) and `c > 0` such that every graph on sufficiently many vertices with `averageDegree ≥ c` has a cycle whose length lies in `A` (Verstraëte [Ve05]; Liu–Montgomery [LiMo20]). Stated as in `71.lean` (`SimpleGraph.averageDegree`, cycle walks).
- `erdos_72.variants.powers_of_two`: Liu–Montgomery's explicit set `A = {2^k}`.

Both are linked to plby/lean-proofs `Erdos72.erdos_72` / `powerTwoUnavoidable` (Codex and GPT-5.6 Sol), which rest on its formalisation of the Liu–Montgomery theorem (the `Erdos63` development already linked from `63.lean`).

### How checked
- Rebuilt plby's files (44 in the closure) against this repo's Mathlib: `#print axioms Erdos72.erdos_72` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against both statements on top of a renamed copy, same axioms (plby's real-valued average degree `2|E|/n` equals the cast of the rational `averageDegree` here):

<details>
<summary>Bridge</summary>

```lean
open Filter SimpleGraph

namespace Bridge72

/-- FormalConjectures' rational average degree, cast to `ℝ`, is plby's real average degree. -/
lemma averageDegree_eq {n : ℕ} (G : SimpleGraph (Fin n)) [DecidableRel G.Adj] :
    ((G.averageDegree : ℚ) : ℝ) = Erdos72Plby.averageDegree G := by
  classical
  unfold SimpleGraph.averageDegree Erdos72Plby.averageDegree
  push_cast
  congr 1
  · have := G.sum_degrees_eq_twice_card_edges
    rw [show (∑ v, (G.degree v : ℝ)) = ((∑ v, G.degree v : ℕ) : ℝ) by push_cast; rfl, this]
    push_cast
    congr 2
    exact congrArg Finset.card (Finset.coe_injective (by simp))

theorem erdos_72_powers_of_two_bridge : type_of% Erdos72.erdos_72.variants.powers_of_two := by
  classical
  obtain ⟨c, hc, h⟩ := Erdos72Plby.powerTwoUnavoidable
  obtain ⟨q, hq⟩ := exists_rat_gt c
  refine ⟨q, by exact_mod_cast hc.trans hq, ?_⟩
  filter_upwards with n
  intro G hG
  have hc' : c ≤ Erdos72Plby.averageDegree G := by
    rw [← averageDegree_eq]
    calc c ≤ q := hq.le
      _ ≤ (G.averageDegree : ℝ) := by exact_mod_cast hG
  obtain ⟨k, v, w, hw, hlen⟩ := h n G hc'
  exact ⟨v, w, hw, k, hlen⟩

theorem erdos_72_bridge : type_of% Erdos72.erdos_72 := by
  show True ↔ _
  simp only [true_iff]
  classical
  obtain ⟨A, hA, c, hc, N₀, h⟩ := Erdos72Plby.erdos_72
  obtain ⟨q, hq⟩ := exists_rat_gt c
  refine ⟨A, hA, q, by exact_mod_cast hc.trans hq, ?_⟩
  filter_upwards [eventually_ge_atTop N₀] with n hn
  intro G hG
  have hc' : c ≤ Erdos72Plby.averageDegree G := by
    rw [← averageDegree_eq]
    calc c ≤ q := hq.le
      _ ≤ (G.averageDegree : ℝ) := by exact_mod_cast hG
  obtain ⟨m, hm, v, w, hw, hlen⟩ := h n hn G hc'
  exact ⟨v, w, hw, hlen ▸ hm⟩

end Bridge72
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«72»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/72.lean [hunk 1]
```diff
@@ -0,0 +1,85 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/72.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
